US04200628
A solution of 12.05 g of 2-hydroxy-2-(1-benzylpyrrolidin-3-yl)acetonitrile in 23 ml of concentrated hydrochloric acid is heated on a bath for 1 hour and allowed to stand overnight. After cooling, precipitated ammonium chloride is filtered off and washed with acetone. The combined filtrate and washings are evaporated under reduced pressure to yield the residue, which is dissolved in water, mixed with 20 ml of 23 (w/w) % aqueous sodium hydroxide solution and washed with methylene chloride. The aqueous layer is slowly adsorbed on a column of 300 ml of Amberlite IR-120B(H+) and after washing of the column with water, eluted with 1 N ammonium hydroxide. The eluate is evaporated to dryness under reduced pressure, and the residue is mixed with acetone. The precipitate, which appears, is collected by filtration and recrystallized from a mixture of ethanol and acetone to yield 1.422 g of 2-hydroxy-2-(1-benzylpyrrolidin-3-yl)acetic acid. mp. 174° to 176° C.

reactant | 2-hydroxy-2-(1-benzylpyrrolidin-3-yl)acetonitrile | 12.05 g | OC(C#N)C1CN(CC1)CC1=CC=CC=C1 | C13H16N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | hydrochloric acid | 23 ml | Cl | ClH
product | 2-hydroxy-2-(1-benzylpyrrolidin-3-yl)acetic acid | 1.422 g | OC(C(=O)O)C1CN(CC1)CC1=CC=CC=C1 | C13H17NO3
